US08981085B2
A solution of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-2-carboxamide (110 mg, 0.328 mmol) in n-BuOH (5 mL) was treated with (R)-tert-butyl piperidin-3-ylcarbamate (197 mg, 0.982 mmol) and stirred at 160° C. for 48 hours in a sealed tube. The mixture was concentrated in vacuo, and the residue was diluted with water (25 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo, and the residue purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 5-85% CH3CN/water gradient; 25 CV) to provide (R)-tert-butyl 1-(5-bromo-3-(pyrimidine-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (67.6 mg, 40% yield) as a solid. LCMS (APCI+) m/z 416, 418 (M+H)+, Retention time=3.40 minutes (Method 2).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-2-carboxamide | 0.328 mmol, 110 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NC=CC=N2)F | C12H7BrFN5O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 0.982 mmol, 197 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(pyrimidine-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 67.6 mg, 40% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NC=CC=N2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H26BrN7O3
